* source QUNER
V_Vcc         N27721 0 10Vdc
R_RL         0 OUT  100 TC=0,0 
C_CL         0 OUT  10u  TC=0,0 
L_L1         0 N33243 Lbreak 0.1H
V_V1         N35220 N33243 DC 0 AC 0
+PULSE 0 5 0 1n 1n 5u 20u
X_M2         N27721 N339491 N33243 IRF2807
R_RL1         N35220 N339491  0.001 TC=0,0
D_D2         OUT N33243 Dbreak
