* source QUNER
V_Vcc         N27721 0 10Vdc
R_RL         0 OUT  100 TC=0,0 
C_C1         0 OUT  100u  TC=0,0
V_V1         N35220 N33243 DC 0 AC 0
+PULSE 0 5 0 1n 1n 5u 20u
R_RL1         N35220 N37049  0.001 TC=0,0
D_D2         OUT N33243 Dbreak
L_L1         0 N33243  0.1H
X_Q1         N27721 N37049 N33243 IRF2807

